US09403831B2
(S)-1-tert-butyl 3-ethylpiperidine-1,3-dicarboxylate (4.27 g, 16.59 mmol) was dissolved in THF (100 ml), and then LiAlH4 (1.26 g, 33.19 mmol) was added at 0° C. The mixture was stirred for 1 hour, and then again at room temperature for 2 hours. When the reaction was completed, H2O (1.26 ml) was slowly added, and NaOH (15%, 1.26 ml) was slowly added. After that, H2O (4 ml) was added, followed by stirring at room temperature for 1 hour. The mixture was filtered through celite, and dried over MgSO4, followed by filtration and then concentration under reduced pressure, to give (S)-tert-butyl 3-(hydroxymethyl)piperidine-1-carboxylate (3.5 g, 99%).

reactant | (S)-1-tert-butyl 3-ethylpiperidine-1,3-dicarboxylate | 16.59 mmol, 4.27 g | C(C)[C@]1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)[O-]
reactant | LiAlH4 | 33.19 mmol, 1.26 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 1.26 ml | O | H2O
reactant | NaOH | 1.26 ml | [OH-].[Na+]
reactant | H2O | 4 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (S)-tert-butyl 3-(hydroxymethyl)piperidine-1-carboxylate | 3.5 g, 99% | OC[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
